US07550629B2
4-Chloro-3-nitro-N-(3,3,3-trifluoro-1-hydroxymethyl-2-trifluoromethyl-propyl)-benzenesulfonamide
To a solution of 4,4,4,4′,4′,4′-hexafluoro-dl-valinol (0.50 g, 2.37 mmol), triethylamine (0.43 mL, 3.08 mmol) and CH2Cl2 (17.5 mL) at 0° C. was added a previously dissolved mixture of 4-chloro-3-nitro-benzenesulfonyl chloride (0.606 g, 2.37 mmol) in CH2Cl2 (5 mL). After 15 min, the ice bath was removed and the reaction allowed to warm up to 25° C. After 16 h, the reaction was then diluted with CH2Cl2 (20 mL) and poured into a separatory funnel containing a saturated NaHCO3 solution. The organic phase was separated, washed sequentially with 1N HCl solution, distilled water, brine, dried over MgSO4 and evaporated to afford the crude product which was purified using Biotage Flash™ chromatography, eluent: 3:1 hexanes-ethyl acetate, to afford the product as a solid (0.134 g, 13%). MS (−ESI) 428.9 ([M−H]−).

reactant | 4,4,4,4′,4′,4′-hexafluoro-dl-valinol | 2.37 mmol, 0.50 g | FC(C(C(N)CO)C(F)(F)F)(F)F | C5H7F6NO
reactant | triethylamine | 3.08 mmol, 0.43 mL | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-3-nitro-benzenesulfonyl chloride | 2.37 mmol, 0.606 g | ClC1=C(C=C(C=C1)S(=O)(=O)Cl)[N+](=O)[O-] | C6H3Cl2NO4S
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 17.5 mL | C(Cl)Cl | CH2Cl2
product | 4-Chloro-3-nitro-N-(3,3,3-trifluoro-1-hydroxymethyl-2-trifluoromethyl-propyl)-benzenesulfonamide | 0.134 g, 13% | ClC1=C(C=C(C=C1)S(=O)(=O)NC(C(C(F)(F)F)C(F)(F)F)CO)[N+](=O)[O-] | C11H9ClF6N2O5S
